US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-[({1-(2-fluorophenyl)-5-[(methylsulfanyl)methyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate
1-(2-Fluorophenyl)-5-[(methylsulfanyl)methyl]-1H-1,2,3-triazole-4-carboxylic acid (960 mg), 1-tert-butyl 3-methyl (3R,5S)-5-(isobutylamino)piperidine-1,3-dicarboxylate (1.15 g) and N,N-diisopropylethylamine (1.6 μl) were dissolved in 1,2-dichloroethane (10 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (1.50 g) was added and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (1.60 g).

reactant | 1-(2-Fluorophenyl)-5-[(methylsulfanyl)methyl]-1H-1,2,3-triazole-4-carboxylic acid | 960 mg | FC1=C(C=CC=C1)N1N=NC(=C1CSC)C(=O)O | C11H10FN3O2S
reactant | 1-tert-butyl 3-methyl (3R,5S)-5-(isobutylamino)piperidine-1,3-dicarboxylate | 1.15 g | C(C(C)C)N[C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C16H30N2O4
reactant | N,N-diisopropylethylamine | 1.6 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 1.50 g | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-tert-butyl 3-methyl(3R,5S)-5-[({1-(2-fluorophenyl)-5-[(methylsulfanyl)methyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.60 g | FC1=C(C=CC=C1)N1N=NC(=C1CSC)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C27H38FN5O5S
